US08058269B2
Sodium borohydride (2.0 g, 53 mmol) (Aldrich) was added in small portions to a mixture of 6-Chloro-1H-indole (1.0 g, 6.6 mmol) (Aldrich) in TFA (10 mL), which was cooled in ice-water bath, at such a rate that gas evolution was not too vigorous. When the addition was complete, the mixture was allowed to warm to room temperature and stirred overnight. The resulting mixture was concentrated in vacuo and the residue was dissolved in DCM. The organic layer was washed with Na2CO3 solution, dried with Na2SO4, and concentrated to give 0.6 g crude 6-Chloro-2,3-dihydro-1H-indole. MS: [M+H]+=154

reactant | Sodium borohydride | 53 mmol, 2.0 g | [BH4-].[Na+]
reactant | 6-Chloro-1H-indole | 6.6 mmol, 1.0 g | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-Chloro-2,3-dihydro-1H-indole | 0.6 g | ClC1=CC=C2CCNC2=C1 | C8H8ClN
